US08314138B2
A solution of 4-methyl-2-(2H-pyrazol-3-yl)-thiazole-5-carboxylic acid 4 fluoro-benzylamide (0.1 g, 0.33 mmol) in dimethyl sulfoxide (5 mL) was treated with (2-bromo-ethoxy)benzene (0.11 g, 0.50 mmol) and potassium carbonate (0.14 g, 1.0 mmol), and the reaction mixture was heated to 90° C. for 16 hr. The reaction mixture was cooled to room temperature, diluted with ethyl acetate (50 mL), and washed with brine (2×50 mL). The organic phase was dried (Na2SO4) and evaporated. The residue was purified by preparative thin layer chromatography over silica gel (methylene chloride:methanol, 95:5) to provide 4-methyl-2-[1-(2-phenoxy-ethyl)-1H-pyrazol-3-yl]-thiazole-5-carboxylic acid 4-fluoro-benzylamide as a tan solid (0.061 g, 43% yield). 1H NMR (400 MHz, CDCl3) δ 7.46 (s, 1H), 7.07-7.19 (m, 5H), 6.78-6.93 (m, 3H), 6.70-6.73 (m, 2H), 5.82-5.88 (bm, 1H), 4.38-4.44 (m, 4H), 4.20 (t, J=5 Hz, 2H), 2.60 (s, 3H); MS (M+H)+=437.1; Rt=1.51 min; HRMS (M+H)+=437.14.

reactant | 4-methyl-2-(2H-pyrazol-3-yl)-thiazole-5-carboxylic acid 4 fluoro-benzylamide | 0.33 mmol, 0.1 g | FC1=CC=C(CNC(=O)C2=C(N=C(S2)C=2NN=CC2)C)C=C1 | C15H13FN4OS
reactant | (2-bromo-ethoxy)benzene | 0.50 mmol, 0.11 g | BrCCOC1=CC=CC=C1 | C8H9BrO
reactant | potassium carbonate | 1.0 mmol, 0.14 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 5 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 4-methyl-2-[1-(2-phenoxy-ethyl)-1H-pyrazol-3-yl]-thiazole-5-carboxylic acid 4-fluoro-benzylamide | 0.061 g, 43% yield | FC1=CC=C(CNC(=O)C2=C(N=C(S2)C2=NN(C=C2)CCOC2=CC=CC=C2)C)C=C1 | C23H21FN4O2S
